US07855201B2
Step 6: (±)-tert-Butyl 2-{[[(9-hydroxy-6,7,8,9-tetrahydro-5H-benzo[7]annulen-2-yl)methyl](isobutyl)amino]-carbonyl}morpholine-4-carboxylate
A mixture of 1.91 g (3.5 mmol) of (±)-tert-butyl 2-[(isobutyl {[9-(tetrahydro-2H-pyran-2-yloxy)-6,7,8,9-tetrahydro-5H-benzo[7]annulen-2-yl]methyl}amino)carbonyl]morpholine-4-carboxylate and 0.088 g (0.35 mmol, 0.1 equiv) of pyridinium p-toluenesulfonate in 25 mL of ethanol was stirred under nitrogen at 55° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (10-50% ethyl acetate in hexanes) to give the product as a solid white foam. MS (m+1)=461.4; H NMR (400 MHz, CDCl3) 7.29 (m, 1H), 7.05 (m, 1H), 6.96 (m, 1H), 4.91 (t, 1H, J 8 Hz), 4.75 (m, 1H), 4.48 (d, 1H, J 16 Hz), 4.18-4.02 (m, 2H), 4.01-3.80 (m, 2H), 3.57-3.38 (m, 2H), 3.21 (m, 1H), 3.10-2.85 (m, 3H), 2.69 (m, 1H), 2.01 (m, 3H), 1.78 (m, 3H), 1.57 (m, 2H, obscured by H2O peak), 1.45 (d, 9H, J 15 Hz), 0.90 (m, 6H).

reactant | (±)-tert-butyl 2-[(isobutyl {[9-(tetrahydro-2H-pyran-2-yloxy)-6,7,8,9-tetrahydro-5H-benzo[7]annulen-2-yl]methyl}amino)carbonyl]morpholine-4-carboxylate | 3.5 mmol, 1.91 g | C(C(C)C)N(C(=O)C1CN(CCO1)C(=O)OC(C)(C)C)CC=1C=CC2=C(C(CCCC2)OC2OCCCC2)C1 | C31H48N2O6
reactant | pyridinium p-toluenesulfonate | 0.35 mmol, 0.088 g, 0.1 equiv | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (±)-tert-Butyl 2-{[[(9-hydroxy-6,7,8,9-tetrahydro-5H-benzo[7]annulen-2-yl)methyl](isobutyl)amino]-carbonyl}morpholine-4-carboxylate | OC1CCCCC2=C1C=C(C=C2)CN(C(=O)C2CN(CCO2)C(=O)OC(C)(C)C)CC(C)C | C26H40N2O5
